US07745438B2
(2R,3S,5R)-5-[(1S,2S)-1-Hydroxy-2-acetylamino-3-(3-(2-ethoxyphenyl)-5-fluorophenyl)-propyl]-2-(2,2-dimethylpropoxy)-3-methylmorpholine-4-carboxylic acid tert-butyl ester
Add 2-ethoxyphenylboronic acid (0.065 g, 0.394 mmol) and (1,1′-bis(diphenylphosphino)ferrocene) palladium(II) chloride (0.021 g) to a mixture of 2M sodium carbonate solution (0.262 g, 0.525 mmol) and (2R,3S,5R)-5-[(1S,2S)-1-hydroxy-2-acetylamino-3-(3-bromo-5-fluorophenyl)-propyl]-2-(2,2-dimethylpropoxy)-3-methylmorpholine-4-carboxylic acid tert-butyl ester (0.151 g, 0.262 mmol) in tetrahydrofuran (2.62 mL) in a sealed tube flushed with nitrogen. Heat the tube at 80° C. for 3 days. Add saturated aqueous sodium chloride and extract with ethyl acetate (2×50 mL). Dry over magnesium sulfate and concentrate under reduced pressure. Subject the residue to silica gel chromatography, eluting with hexanes containing 25-50% ethyl acetate to provide the title compound (0.075 g, 46%) as a white foam.

reactant | 2-ethoxyphenylboronic acid | 0.394 mmol, 0.065 g | C(C)OC1=C(C=CC=C1)B(O)O | C8H11BO3
reactant | sodium carbonate | 0.525 mmol, 2M, 0.262 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | (2R,3S,5R)-5-[(1S,2S)-1-hydroxy-2-acetylamino-3-(3-bromo-5-fluorophenyl)-propyl]-2-(2,2-dimethylpropoxy)-3-methylmorpholine-4-carboxylic acid tert-butyl ester | 0.262 mmol, 0.151 g | C(C)(C)(C)OC(=O)N1[C@H]([C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)Br)NC(C)=O)O)OCC(C)(C)C)C | C26H40BrFN2O6
solvent | tetrahydrofuran | 2.62 mL | O1CCCC1 | C4H8O
catalyst | (1,1′-bis(diphenylphosphino)ferrocene) palladium(II) chloride | 0.021 g | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | (2R,3S,5R)-5-[(1S,2S)-1-Hydroxy-2-acetylamino-3-(3-(2-ethoxyphenyl)-5-fluorophenyl)-propyl]-2-(2,2-dimethylpropoxy)-3-methylmorpholine-4-carboxylic acid tert-butyl ester | 0.075 g, 46% | C(C)(C)(C)OC(=O)N1[C@H]([C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)C1=C(C=CC=C1)OCC)NC(C)=O)O)OCC(C)(C)C)C | C34H49FN2O7
